US06043254
(a) 1-acetyl-3-[1-hydroxy-1-(4-methyl-phenyl)methylidene]-5-nitro-2-indolinone
Prepared analogously to Example 10(a) from 1-acetyl-5-nitro-2-indolinone and 4-methyl-benzoic acid in dry DMF in the presence of TBTU, HOBT and Hunig's base (20° C., overnight) and final purification by column chromatography on silica gel with CH2Cl2 as eluant.

reactant | 1-acetyl-5-nitro-2-indolinone | C(C)(=O)N1C(CC2=CC(=CC=C12)[N+](=O)[O-])=O | C10H8N2O4
reactant | 4-methyl-benzoic acid | CC1=CC=C(C(=O)O)C=C1 | C8H8O2
reactant | TBTU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | HOBT | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | Hunig's base | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | CN(C)C=O | C3H7NO
product | 1-acetyl-3-[1-hydroxy-1-(4-methyl-phenyl)methylidene]-5-nitro-2-indolinone | C(C)(=O)N1C(C(C2=CC(=CC=C12)[N+](=O)[O-])=C(C1=CC=C(C=C1)C)O)=O | C18H14N2O5
